US07750003B2
1-Ethyl-3-[4-[4-(hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea
1-[4-[4-[(Dimethyl-tert-butyl-silyl)oxymethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-ethyl-urea (104 mg) was dissolved in THF (10 mL) and TBAF (1.0 M solution, 0.22 mL) was added. The reaction was allowed to stir for 1 hour at room temperature and then passed down a SCX-2 column. The column was washed with methanol and the desired material eluted with 7N ammonia in methanol. The fractions were concentrated in vacuo to give the desired compound (76 mg) as a white solid.

reactant | 1-[4-[4-[(Dimethyl-tert-butyl-silyl)oxymethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-ethyl-urea | 104 mg | C[Si](OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NCC)(C(C)(C)C)C | C25H39N5O3Si
reactant | TBAF | 1.0 M, 0.22 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-3-[4-[4-(hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea | 76 mg | C(C)NC(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)CO)N1[C@H](COCC1)C | C19H25N5O3
